US07524845B2
To a solution of 1-pyrazolo[3,4-c]pyridin-1-yl-ethanone (20.2 mg, 0.17 mmol, 1 equiv) in tetrahydrofuran (2 mL) and methanol (0.5 mL) was added sodium hydroxide aqueous solution (2M, 0.25 mL). The reaction solution was stirred at room temperature for 1 hr and then concentrated in vacuo to provide a crude residue. The crude residue was diluted with water (20 mL) and extracted with dichloromethane (2×100 mL). The combined organic layers were washed with brine, dried over sodium sulfate, and concentrated in vacuo to provide 1H-pyrazolo[3,4-c]pyridine as white powder, which used without further purification: LCMS (ES) M+H 120.3, Rf 0.22 min (Agilent Zorbax SB-C18, 2.1×50 mm, 5μ, 35° C., 1 ml/min flow rate, a 2.5 min gradient of 20% to 100% B with a 1.1 min wash at 100% B; A=0.1% formic acid /5% acetonitrile /94.9% water, B=0.1% formic acid /5% water/94.9% acetonitrile).

reactant | 1-pyrazolo[3,4-c]pyridin-1-yl-ethanone | 0.17 mmol, 20.2 mg, 1 equiv | N1(N=CC=2C1=CN=CC2)C(C)=O | C8H7N3O
reactant | sodium hydroxide | 2M, 0.25 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | methanol | 0.5 mL | CO | CH4O
solvent | water | 20 mL | O | H2O
product | 1H-pyrazolo[3,4-c]pyridine | N1N=CC=2C1=CN=CC2 | C6H5N3
